US05852017
j) 1-(Ethoxycarbonylmethyl)-6-nitro-7-(1-pyrrolyl)-2,3(1H,4H)-quinoxalinedione
30 g (97 mmol) of 7-amino-1-(ethoxycarbonylmethyl)-6-nitro-2,3(1H,4H)-quinoxalinedione and 16.1 g (121.5 mmol) of 2,5-dimethoxytetrahydrofuran in 500 ml of acetic acid were heated at 80° C. for 1 h. The mixture was then poured into ice-water, and the precipitate was filtered off with suction to yield 28.8 g (83%) of the product.

reactant | 7-amino-1-(ethoxycarbonylmethyl)-6-nitro-2,3(1H,4H)-quinoxalinedione | 97 mmol, 30 g | NC1=C(C=C2NC(C(N(C2=C1)CC(=O)OCC)=O)=O)[N+](=O)[O-] | C12H12N4O6
reactant | 2,5-dimethoxytetrahydrofuran | 121.5 mmol, 16.1 g | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | 1-(Ethoxycarbonylmethyl)-6-nitro-7-(1-pyrrolyl)-2,3(1H,4H)-quinoxalinedione | 28.8 g, 83% | C(C)OC(=O)CN1C(C(NC2=CC(=C(C=C12)N1C=CC=C1)[N+](=O)[O-])=O)=O | C16H14N4O6
